US06770667B1
To a suspension of 2-trifluoromethyl-3-methylindole-7-carboxylic acid (122 mg) and 4-methyl-3-(pyrimidin-5-yl)aniline (93 mg) in dichloromethane (5 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (144 mg) and 4-dimethylaminopyridine (30 mg). The mixture was stirred at ambient temperature for 24 hours and diluted with dichloromethane. The solution was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluting with 2% methanol in dichloromethane to give N-[4-methyl-3-(pyrimidin-5-yl)-phenyl]-3-methyl-2-trifluoromethyl-1H-indole-7-carboxamide (155 mg, 75.6%).

reactant | 2-trifluoromethyl-3-methylindole-7-carboxylic acid | 122 mg | FC(C=1NC2=C(C=CC=C2C1C)C(=O)O)(F)F | C11H8F3NO2
reactant | 4-methyl-3-(pyrimidin-5-yl)aniline | 93 mg | CC1=C(C=C(N)C=C1)C=1C=NC=NC1 | C11H11N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 144 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[4-methyl-3-(pyrimidin-5-yl)-phenyl]-3-methyl-2-trifluoromethyl-1H-indole-7-carboxamide | 155 mg, 75.6% | CC1=C(C=C(C=C1)NC(=O)C=1C=CC=C2C(=C(NC12)C(F)(F)F)C)C=1C=NC=NC1 | C22H17F3N4O
